US06972340B2
2-methoxycarbonylamino-3-(4-nitro-naphthalen-1-yl)-propionic acid 2-trimethylsilanyl-ethyl ester
To a mixture of 2-methoxycarbonylamino-3-(4-nitro-naphthalen-1-yl)-propionic acid (0.35 g, 1.1 mmol), pyridine (0.78 mL) and 2-trimethylsilylethanol (0.18 mL, 1.25 mmol, 1.1 eq) in acetonitrile (1.1 mL) cooled in an ice bath was added dicyclohexylcarbodiimide (0.25 g, 1.21 mmol). The mixture was stirred cold for 1 hour, placed in the refrigerator for 14 hours. The reaction mixture was filtered, concentrated under reduced pressure and purified on silica gel eluting with heptane/ethyl acetate (4:1) to provide the titled compound. MS ESI(−)) m/e 417 (M−H)−.

reactant | 2-methoxycarbonylamino-3-(4-nitro-naphthalen-1-yl)-propionic acid | 1.1 mmol, 0.35 g | COC(=O)NC(C(=O)O)CC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C15H14N2O6
reactant | pyridine | 0.78 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-trimethylsilylethanol | 1.25 mmol, 0.18 mL, 1.1 eq | C[Si](CCO)(C)C | C5H14OSi
reactant | dicyclohexylcarbodiimide | 1.21 mmol, 0.25 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 1.1 mL | C(C)#N | C2H3N
product | 2-methoxycarbonylamino-3-(4-nitro-naphthalen-1-yl)-propionic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(C(CC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-])NC(=O)OC)=O)(C)C | C20H26N2O6Si
